US05110959
Preparation of (2R-trans)-1-naphthalenyl 3-[2-(4-phenoxybutyl)phenyl]oxiranecarboxylate
Preparation of (E)-1-(1-naphthalenyl)-3-[2-(4-phenoxybutyl)phenyl]-2-propen-1-one. Using the method of Example 5a, 1'-acetonaphthone is reacted with 2-(4-phenoxybutyl)benzaldehyde in alcohol solution to give the titled compound.

reactant | (E)-1-(1-naphthalenyl)-3-[2-(4-phenoxybutyl)phenyl]-2-propen-1-one | C1(=CC=CC2=CC=CC=C12)C(\C=C\C1=C(C=CC=C1)CCCCOC1=CC=CC=C1)=O | C29H26O2
reactant | 1'-acetonaphthone | C(C)(=O)C1=CC=CC2=CC=CC=C12 | C12H10O
reactant | 2-(4-phenoxybutyl)benzaldehyde | O(C1=CC=CC=C1)CCCCC1=C(C=O)C=CC=C1 | C17H18O2
product | (2R-trans)-1-naphthalenyl 3-[2-(4-phenoxybutyl)phenyl]oxiranecarboxylate | O(C1=CC=CC=C1)CCCCC1=C(C=CC=C1)[C@H]1[C@@H](O1)C(=O)OC1=CC=CC2=CC=CC=C12 | C29H26O4
